US05262441
A mixture of 0.75 g of 2-chloro-4-(2-ethylbutyl)phenol, 0.50 g of p-chlorobenzyl alcohol, 0.92 g of triphenylphosphine, 0.71 g of diisopropylazadicarboxylate and 100 mg of tetrahydrofuran was stirred at room temperatur for 48 hours. The reaction mixture was concentrated, and 50 ml of diethyl ether was added thereto. The precipitates were removed by filtration, and the filtrate was concentrated. The residue was subjected to silica gel chromatography to give 0.75 g of 2-chloro-1-(4-chlorobenzyloxy)-4-(2-ethylbutyl)benzene. Yield, 63%. nD22.6 1.5611.

reactant | 2-chloro-4-(2-ethylbutyl)phenol | 0.75 g | ClC1=C(C=CC(=C1)CC(CC)CC)O | C12H17ClO
reactant | p-chlorobenzyl alcohol | 0.50 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | triphenylphosphine | 0.92 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 100 mg | O1CCCC1 | C4H8O
product | 2-chloro-1-(4-chlorobenzyloxy)-4-(2-ethylbutyl)benzene | 0.75 g | ClC1=C(C=CC(=C1)CC(CC)CC)OCC1=CC=C(C=C1)Cl | C19H22Cl2O
